US07714009B2
4-[(2-Chloro-1-methyl-1H-benzimidazol-7-yl)(isopropyl)amino]benzonitrile
To a suspension of 4-[(2-chloro-1-methyl-1H-benzimidazol-7-yl)amino]benzonitrile (64 mg, 0.226 mmol), tetrabutylammonium iodide (8.4 mg, 0.023 mmol) and sodium hydride (18.1 mg, 0.679 mmol, 90% dry) was added 2-bromopropane (0.07231 ml, 0.679 mmol), and the mixture was stirred at room temperature for 12 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel eluting with a solution of 50% hexane/ethyl acetate to give 64 mg (84%) of the title compound.

reactant | 4-[(2-chloro-1-methyl-1H-benzimidazol-7-yl)amino]benzonitrile | 0.226 mmol, 64 mg | ClC1=NC2=C(N1C)C(=CC=C2)NC2=CC=C(C#N)C=C2 | C15H11ClN4
reactant | sodium hydride | 0.679 mmol, 18.1 mg | [H-].[Na+]
reactant | 2-bromopropane | 0.679 mmol, 0.07231 ml | BrC(C)C | C3H7Br
catalyst | tetrabutylammonium iodide | 0.023 mmol, 8.4 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 4-[(2-Chloro-1-methyl-1H-benzimidazol-7-yl)(isopropyl)amino]benzonitrile | 64 mg, 84% | ClC1=NC2=C(N1C)C(=CC=C2)N(C2=CC=C(C#N)C=C2)C(C)C | C18H17ClN4
